US07323472B2
8-(2,6-Difluoro-phenyl)-4-(4-fluoro-2-methyl-phenyl)-2-[2-(3-hydroxy-azetidin-1-yl)-2-oxo-ethylamino]-8H-pyrido[2,3-d]pyrimidin-7-one
A mixture of [8-(2,6-difluoro-phenyl)-4-(4-fluoro-2-methyl-phenyl)-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino]-acetic acid (100 mg, 0.23 mmol), azetidin-3-ol hydrochloride (37 mg, 0.34), o-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate (129 mg, 0.34 mmol) and N-methyl-morpholine (0.12 mL, 1.13 mmol) in DMF (2 mL) was stirred at 23° for 16 h to give the crude material, which was purified by preparative hplc to afford the title compound 56 mg (49%). LC-MS: 496.2 (MH+, m/z), 1.69 (Rt, min).

reactant | [8-(2,6-difluoro-phenyl)-4-(4-fluoro-2-methyl-phenyl)-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino]-acetic acid | 0.23 mmol, 100 mg | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C2=C(C=C(C=C2)F)C)NCC(=O)O)=O | C22H15F3N4O3
reactant | azetidin-3-ol hydrochloride | 37 mg | Cl.N1CC(C1)O
reactant | o-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.34 mmol, 129 mg | CN(C)C(=[N+](C)C)ON1C2=CC=CC=C2N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methyl-morpholine | 1.13 mmol, 0.12 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 8-(2,6-Difluoro-phenyl)-4-(4-fluoro-2-methyl-phenyl)-2-[2-(3-hydroxy-azetidin-1-yl)-2-oxo-ethylamino]-8H-pyrido[2,3-d]pyrimidin-7-one | 56 mg, 49% | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C2=C(C=C(C=C2)F)C)NCC(=O)N2CC(C2)O)=O | C25H20F3N5O3
